US09284333B2
A solution of (R)-2-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester in 2 N hydrogen chloride in dioxane (250 mg, 1.1 mmol) in 4 N hydrogen chloride in dioxane (2 ml, 8 mmol) was stirred for 2 h at 25° C. and evaporated to dryness and redissolved in ethanol. After addition of a few drops of 12 M aqueous hydrochloric acid the mixture was stirred at 25° C. overnight. Solvents were evaporated to give 200 mg (95%) of (R)-pyrrolidin-2-yl-acetic acid ethyl ester hydrochloride (25 mg, 55%).

reactant | (R)-2-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CC(=O)O | C11H19NO4
reactant | dioxane | 1.1 mmol, 250 mg | O1CCOCC1 | C4H8O2
reactant | dioxane | 8 mmol, 2 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 2 N | Cl | ClH
reactant | hydrogen chloride | 4 N | Cl | ClH
product | (R)-pyrrolidin-2-yl-acetic acid ethyl ester hydrochloride | 200 mg | Cl.C(C)OC(C[C@@H]1NCCC1)=O | InChI=1S/C8H15NO2.ClH/c1-2-11-8(10)6-7-4-3-5-9-7;/h7,9H,2-6H2,1H3;1H/t7-;/m1./s1
